US07402672B2
3-(2-Methoxy-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-14
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(2-methoxyphenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-14 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.48 (bs, 1H), 8.44 (dd, 1H, J=1.5, 4.5 Hz), 8.10 (bs, 1H), 7.90 (dd, 1H, J=1.2, 8.0 Hz), 7.60 (bs, 1H), 7.30 (m, 3H), 6.71 (apparent t, 1H), 6.50 (apparent d, 1H), 3.91 (s, 3H); MS Obs 300.3 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(2-methoxyphenyl)disulfide | 1.1 equiv | COC1=C(C=CC=C1)SSC1=C(C=CC=C1)OC | C14H14O2S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-Methoxy-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | COC1=C(C=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C15H13N3O2S
